US06004960
Step 1: 2-benzyl-4.5-dibromo-2H-pyridazin-3-one
A mixture of 4,5-dibromopyridazin-2H-pyridazin-3-one (10 g, 40 mmol), benzyl bromide (6.84 g, 40 mmol), 8N KOH (5 mL, 40 mmol) and DMF (40 mL) was warmed up to 50° C. and reacted for 0.5 hr. The mixture was cooled to r.t., poured over H20 (500 mL) and extracted twice with Et2O (200 mL). The combined organic layers were washed with brine, dried with MgSO4 and the solvent was removed in vacuo to give the title compound which was used for next step without further purification.

reactant | 4,5-dibromopyridazin 2H-pyridazin-3-one | 40 mmol, 10 g | BrC1=CN=NC=C1Br.N=1NC(C=CC1)=O
reactant | benzyl bromide | 40 mmol, 6.84 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | KOH | 40 mmol, 8N, 5 mL | [OH-].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-benzyl-4.5-dibromo-2H-pyridazin-3-one | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Br)Br | C11H8Br2N2O
